US05081271
b) 3'-Trimethylgermylacetophenone
A mixture of 351 mg (1.25 mmol) of 2-(3-trimethylgermylphenyl)-2-methyl-1,3-dioxolane, 47 mg (0.187 mmol, 0.15eq) of pyridinium p-toluenesulfonate (PPTS), 1.1126 g (62.5 mmol, 50eq) of water and 10 ml of acetone was refluxed for 2.5hours. The reaction mixture was evaporated and extracted with petroleum ether. The extract was evaporated. The oily residue was purified by column chromatography to give 294 mg of colorless oily substance.

reactant | 2-(3-trimethylgermylphenyl)-2-methyl-1,3-dioxolane | 1.25 mmol, 351 mg | C[Ge](C=1C=C(C=CC1)C1(OCCO1)C)(C)C | C13H20GeO2
reactant | pyridinium p-toluenesulfonate | 0.187 mmol, 47 mg, 0.15eq | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | 62.5 mmol, 1.1126 g, 50eq | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3'-Trimethylgermylacetophenone | C[Ge](C=1C=C(C=CC1)C(C)=O)(C)C | C11H16GeO
